**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Tiny Multi-Output Transformers
* Matchcode:              WE-PPTM
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Roberta/Ella   
* Date and Time:          2025-11-11
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************				
.subckt	PPTM_1212_750316016		2  3  4  10  9  8  7  6	
.param RxLkg=696.31ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	54mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	54mohm	
Lsec1	10	10a	44.898uH	
Rser5	10a	9	69mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	55mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	55mohm	
Lsec4	7	7a	44.898uH	
Rser8	7a	6	69mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=3pf				
.param Cprm2=3pf				
.param Rdmp1=95742.71ohm				
.param Rdmp2=95742.71ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316017		2  3  4  10  9  8  7  6	
.param RxLkg=727.27ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	50mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	50mohm	
Lsec1	10	10a	64.653uH	
Rser5	10a	9	120mohm	
Lsec2	9	9a	16.163uH	
Rser6	9a	8	44mohm	
Lsec3	8	8a	16.163uH	
Rser7	8a	7	44mohm	
Lsec4	7	7a	64.653uH	
Rser8	7a	6	120mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=2.75pf				
.param Cprm2=2.75pf				
.param Rdmp1=100000.06ohm				
.param Rdmp2=100000.06ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316018		2  3  4  10  9  8  7  6	
.param RxLkg=603.02ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	51mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	51mohm	
Lsec1	10	10a	88uH	
Rser5	10a	9	107mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	54mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	54mohm	
Lsec4	7	7a	88uH	
Rser8	7a	6	107mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=4pf				
.param Cprm2=4pf				
.param Rdmp1=82915.65ohm				
.param Rdmp2=82915.65ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316019		2  3  4  10  9  8  7  6	
.param RxLkg=603.02ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	51mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	51mohm	
Lsec1	10	10a	88uH	
Rser5	10a	9	107mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	54mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	54mohm	
Lsec4	7	7a	88uH	
Rser8	7a	6	107mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=4pf				
.param Cprm2=4pf				
.param Rdmp1=82915.65ohm				
.param Rdmp2=82915.65ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316668		2  3  4  10  9  8  7  6	
.param RxLkg=696.31ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	54mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	54mohm	
Lsec1	10	10a	44.898uH	
Rser5	10a	9	69mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	55mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	55mohm	
Lsec4	7	7a	44.898uH	
Rser8	7a	6	69mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=3pf				
.param Cprm2=3pf				
.param Rdmp1=95742.71ohm				
.param Rdmp2=95742.71ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316669		2  3  4  10  9  8  7  6	
.param RxLkg=727.27ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	50mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	50mohm	
Lsec1	10	10a	64.653uH	
Rser5	10a	9	120mohm	
Lsec2	9	9a	16.163uH	
Rser6	9a	8	44mohm	
Lsec3	8	8a	16.163uH	
Rser7	8a	7	44mohm	
Lsec4	7	7a	64.653uH	
Rser8	7a	6	120mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=2.75pf				
.param Cprm2=2.75pf				
.param Rdmp1=100000.06ohm				
.param Rdmp2=100000.06ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316670		2  3  4  10  9  8  7  6	
.param RxLkg=603.02ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	51mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	51mohm	
Lsec1	10	10a	88uH	
Rser5	10a	9	107mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	54mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	54mohm	
Lsec4	7	7a	88uH	
Rser8	7a	6	107mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=4pf				
.param Cprm2=4pf				
.param Rdmp1=82915.65ohm				
.param Rdmp2=82915.65ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750316671		2  3  4  10  9  8  7  6	
.param RxLkg=603.02ohm				
.param Leakage=0.16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	21.92uH	
Rser1	2b	3	51mohm	
Lpri2	3a	3b	21.92uH	
Rser2	3b	4	51mohm	
Lsec1	10	10a	88uH	
Rser5	10a	9	107mohm	
Lsec2	9	9a	28.735uH	
Rser6	9a	8	54mohm	
Lsec3	8	8a	28.735uH	
Rser7	8a	7	54mohm	
Lsec4	7	7a	88uH	
Rser8	7a	6	107mohm	
K Lpri1 Lpri2   Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=4pf				
.param Cprm2=4pf				
.param Rdmp1=82915.65ohm				
.param Rdmp2=82915.65ohm				
Cpri1	2	2c	{Cprm1}	
Rser13	2c	3	10mohm	
Cpri2	3	3c	{Cprm2}	
Rser14	3c	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				

.subckt	PPTM_1212_750317843		1  2  3  4  5  10  9  8  7  6	
.param RxLkg=636.37ohm				
.param Leakage=1.4uh				
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	1a	1b	504.3uH	
Rser1	1b	2	306mohm	
Lpri2	2a	2b	504.3uH	
Rser2	2b	3	306mohm	
Laux1	4	4a	118.714uH	
Rser3	4a	5	116mohm	
Lsec1	10	10a	104.339uH	
Rser5	10a	9	339mohm	
Lsec2	9	9a	3.281uH	
Rser6	9a	8	82mohm	
Lsec3	8	8a	3.281uH	
Rser7	8a	7	82mohm	
Lsec4	7	7a	3.281uH	
Rser8	7a	6	82mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=11.98pf				
.param Cprm2=11.98pf				
.param Rdmp1=229548.13ohm				
.param Rdmp2=229548.13ohm				
Cpri1	1	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	2	3a	{Cprm2}	
Rser14	3a	3	10mohm	
Rdmp1	1	2	{Rdmp1}	
Rdmp2	2	3	{Rdmp2}	
Rg3	1	0	20meg	
Rg5	4	0	20meg	
Rg7	2	0	20meg	
Rg8	3	0	20meg	
Rg9	5	0	20meg	
Rg11	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
Rg22	6	0	20meg	
.ends				